US06908921B2
To a solution of BOC-O-benzyl-D-serine (5.05 g, 17.12 mmol) in MeOH (100 mL) at −78° C., was added SOCl2 dropwise. The reaction mixture was warmed to 0° C. and stirred for ˜4 hours and then concentrated. The residue was taken up in EtOAc and washed with 10% Na2CO3 (3×80 mL). The organic layer was dried over sodium sulfate, filtered and concentrated. To the crude material in EtOAc (100 mL) at 0° C. was bubbled HCl gas for approximately 10 minutes, and the reaction was capped and the mixture stirred at 0° C. for 30 minutes before it was concentrated in vacuo. The crude material was diluted with 50 mL of a 1:1 solution of saturated NaHCO3/10% Na2CO3 and extracted with EtOAc (4×50 mL). The combined organics were dried over sodium sulfate, filtered, and concentrated to give O-benzyl-D-serine methyl ester (3.13 g, 14.96 mmol) which was used without further purification. LCMS (ES) m/z 210.1 (M+H)+.

reactant | BOC-O-benzyl-D-serine | 17.12 mmol, 5.05 g | C(=O)(OC(C)(C)C)N[C@H](COCC1=CC=CC=C1)C(=O)O | C15H21NO5
reactant | SOCl2 | O=S(Cl)Cl | Cl2OS
reactant | MeOH | 100 mL | CO | CH4O
product | O-benzyl-D-serine methyl ester | 14.96 mmol, 3.13 g | COC([C@H](N)COCC1=CC=CC=C1)=O | C11H15NO3
